### PR TITLE
[Merged by Bors] - feat(Algebra/Homology): head of long exact sequence of `Ext`

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
In this PR, we add the "head" of the long exact sequence of `Ext`, i.e. the injectivity of the first morphism.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Homology/DerivedCategory/Ext/ExactSequences.lean [hunk 1]
```diff
@@ -159,6 +159,16 @@ lemma covariant_sequence_exact₃ {n₀ : ℕ} (x₃ : Ext X S.X₃ n₀) {n₁
   rw [ShortComplex.ab_exact_iff] at this
   exact this x₃ hx₃
 
+lemma mk₀_postcomp_mono (L M N : C) (f : M ⟶ N) (mono : Mono f) :
+    Mono (AddCommGrpCat.ofHom <| ((Ext.mk₀ f)).postcomp L (add_zero 0)) := by
```
Comment (joelriou) [inline Mathlib/Algebra/Homology/DerivedCategory/Ext/ExactSequences.lean]: Could you first state a `Function.Injective` version of these two lemmas?

File: Mathlib/Algebra/Homology/DerivedCategory/Ext/ExactSequences.lean [hunk 2]
```diff
@@ -159,6 +159,16 @@ lemma covariant_sequence_exact₃ {n₀ : ℕ} (x₃ : Ext X S.X₃ n₀) {n₁
   rw [ShortComplex.ab_exact_iff] at this
   exact this x₃ hx₃
 
+lemma mk₀_postcomp_mono (L M N : C) (f : M ⟶ N) (mono : Mono f) :
```
Comment (joelriou) [inline Mathlib/Algebra/Homology/DerivedCategory/Ext/ExactSequences.lean]: I would think this name would be better:
```suggestion
lemma mono_postcomp_mk₀ (L M N : C) (f : M ⟶ N) (mono : Mono f) :
```

Comment (Thmoas-Guan) [reply Mathlib/Algebra/Homology/DerivedCategory/Ext/ExactSequences.lean]: What do you think of the new name?(a bit different)

File: Mathlib/Algebra/Homology/DerivedCategory/Ext/ExactSequences.lean [hunk 3]
```diff
@@ -159,6 +159,19 @@ lemma covariant_sequence_exact₃ {n₀ : ℕ} (x₃ : Ext X S.X₃ n₀) {n₁
   rw [ShortComplex.ab_exact_iff] at this
   exact this x₃ hx₃
 
+lemma postcomp_mk₀_injective_of_mono (L M N : C) (f : M ⟶ N) (mono : Mono f) :
```
Comment (joelriou) [inline Mathlib/Algebra/Homology/DerivedCategory/Ext/ExactSequences.lean]:
```suggestion
lemma postcomp_mk₀_injective_of_mono (L : C) {M N : C} (f : M ⟶ N) (mono : Mono f) :
```

File: Mathlib/Algebra/Homology/DerivedCategory/Ext/ExactSequences.lean [hunk 4]
```diff
@@ -159,6 +159,19 @@ lemma covariant_sequence_exact₃ {n₀ : ℕ} (x₃ : Ext X S.X₃ n₀) {n₁
...
+    Function.Injective (((Ext.mk₀ f)).postcomp L (add_zero 0)) := by
+  rw [← AddMonoidHom.ker_eq_bot_iff, AddSubgroup.eq_bot_iff_forall]
+  intro x hx
+  simp only [AddMonoidHom.mem_ker, AddMonoidHom.flip_apply, Ext.bilinearComp_apply_apply] at hx
+  rw [← Ext.mk₀_homEquiv₀_apply x, Ext.mk₀_comp_mk₀] at hx
+  have : (Ext.addEquiv₀ x ≫ f) = 0 := Ext.addEquiv₀.symm.map_eq_zero_iff.mp hx
+  exact Ext.addEquiv₀.map_eq_zero_iff.mp (Limits.zero_of_comp_mono f this)
+
+lemma mono_postcomp_mk₀_of_mono (L M N : C) (f : M ⟶ N) (mono : Mono f) :
```
Comment (joelriou) [inline Mathlib/Algebra/Homology/DerivedCategory/Ext/ExactSequences.lean]:
```suggestion
lemma mono_postcomp_mk₀_of_mono (L : C) {M N : C} (f : M ⟶ N) (mono : Mono f) :
```

File: Mathlib/Algebra/Homology/DerivedCategory/Ext/ExactSequences.lean [hunk 5]
```diff
@@ -277,6 +290,19 @@ lemma contravariant_sequence_exact₃ {n₁ : ℕ} (x₃ : Ext S.X₃ Y n₁)
   rw [ShortComplex.ab_exact_iff] at this
   exact this x₃ hx₃
 
+lemma precomp_mk₀_injective_of_epi (L M N : C) (g : M ⟶ N) (epi : Epi g) :
```
Comment (joelriou) [inline Mathlib/Algebra/Homology/DerivedCategory/Ext/ExactSequences.lean]:
```suggestion
lemma precomp_mk₀_injective_of_epi (L : C) {M N : C} (g : M ⟶ N) (epi : Epi g) :
```

File: Mathlib/Algebra/Homology/DerivedCategory/Ext/ExactSequences.lean [hunk 6]
```diff
@@ -277,6 +290,19 @@ lemma contravariant_sequence_exact₃ {n₁ : ℕ} (x₃ : Ext S.X₃ Y n₁)
...
+    Function.Injective (((Ext.mk₀ g)).precomp L (zero_add 0)) := by
+  rw [← AddMonoidHom.ker_eq_bot_iff, AddSubgroup.eq_bot_iff_forall]
+  intro x hx
+  simp only [AddMonoidHom.mem_ker, Ext.bilinearComp_apply_apply] at hx
+  rw [← Ext.mk₀_homEquiv₀_apply x, Ext.mk₀_comp_mk₀] at hx
+  have : (g ≫ Ext.addEquiv₀ x) = 0 := Ext.addEquiv₀.symm.map_eq_zero_iff.mp hx
+  exact Ext.addEquiv₀.map_eq_zero_iff.mp (Limits.zero_of_epi_comp g this)
+
+lemma mono_precomp_mk₀_of_epi (L M N : C) (g : M ⟶ N) (epi : Epi g) :
```
Comment (joelriou) [inline Mathlib/Algebra/Homology/DerivedCategory/Ext/ExactSequences.lean]:
```suggestion
lemma mono_precomp_mk₀_of_epi (L : C) {M N : C} (g : M ⟶ N) (epi : Epi g) :
```

File: Mathlib/Algebra/Homology/DerivedCategory/Ext/ExactSequences.lean [hunk 7]
```diff
@@ -159,6 +159,19 @@ lemma covariant_sequence_exact₃ {n₀ : ℕ} (x₃ : Ext X S.X₃ n₀) {n₁
...
+    Function.Injective (((Ext.mk₀ f)).postcomp L (add_zero 0)) := by
+  rw [← AddMonoidHom.ker_eq_bot_iff, AddSubgroup.eq_bot_iff_forall]
+  intro x hx
+  simp only [AddMonoidHom.mem_ker, AddMonoidHom.flip_apply, Ext.bilinearComp_apply_apply] at hx
+  rw [← Ext.mk₀_homEquiv₀_apply x, Ext.mk₀_comp_mk₀] at hx
+  have : (Ext.addEquiv₀ x ≫ f) = 0 := Ext.addEquiv₀.symm.map_eq_zero_iff.mp hx
+  exact Ext.addEquiv₀.map_eq_zero_iff.mp (Limits.zero_of_comp_mono f this)
+
+lemma mono_postcomp_mk₀_of_mono (L M N : C) (f : M ⟶ N) (mono : Mono f) :
+    Mono (AddCommGrpCat.ofHom <| ((Ext.mk₀ f)).postcomp L (add_zero 0)) :=
```
Comment (joelriou) [inline Mathlib/Algebra/Homology/DerivedCategory/Ext/ExactSequences.lean]:
```suggestion
    Mono (AddCommGrpCat.ofHom <| (Ext.mk₀ f).postcomp L (add_zero 0)) :=
```

File: Mathlib/Algebra/Homology/DerivedCategory/Ext/ExactSequences.lean [hunk 8]
```diff
@@ -277,6 +290,19 @@ lemma contravariant_sequence_exact₃ {n₁ : ℕ} (x₃ : Ext S.X₃ Y n₁)
...
+    Function.Injective (((Ext.mk₀ g)).precomp L (zero_add 0)) := by
+  rw [← AddMonoidHom.ker_eq_bot_iff, AddSubgroup.eq_bot_iff_forall]
+  intro x hx
+  simp only [AddMonoidHom.mem_ker, Ext.bilinearComp_apply_apply] at hx
+  rw [← Ext.mk₀_homEquiv₀_apply x, Ext.mk₀_comp_mk₀] at hx
+  have : (g ≫ Ext.addEquiv₀ x) = 0 := Ext.addEquiv₀.symm.map_eq_zero_iff.mp hx
+  exact Ext.addEquiv₀.map_eq_zero_iff.mp (Limits.zero_of_epi_comp g this)
+
+lemma mono_precomp_mk₀_of_epi (L M N : C) (g : M ⟶ N) (epi : Epi g) :
+    Mono (AddCommGrpCat.ofHom <| ((Ext.mk₀ g)).precomp L (zero_add 0)) :=
```
Comment (joelriou) [inline Mathlib/Algebra/Homology/DerivedCategory/Ext/ExactSequences.lean]:
```suggestion
    Mono (AddCommGrpCat.ofHom <| (Ext.mk₀ g).precomp L (zero_add 0)) :=
```

File: Mathlib/Algebra/Homology/DerivedCategory/Ext/ExactSequences.lean [hunk 9]
```diff
@@ -159,6 +159,19 @@ lemma covariant_sequence_exact₃ {n₀ : ℕ} (x₃ : Ext X S.X₃ n₀) {n₁
   rw [ShortComplex.ab_exact_iff] at this
   exact this x₃ hx₃
 
+lemma postcomp_mk₀_injective_of_mono (L M N : C) (f : M ⟶ N) (mono : Mono f) :
+    Function.Injective (((Ext.mk₀ f)).postcomp L (add_zero 0)) := by
+  rw [← AddMonoidHom.ker_eq_bot_iff, AddSubgroup.eq_bot_iff_forall]
+  intro x hx
```
Comment (joelriou) [inline Mathlib/Algebra/Homology/DerivedCategory/Ext/ExactSequences.lean:165]: If you all the following lemma
```lean
@[simp]
lemma mk₀_eq_zero_iff {M N : C} (f : M ⟶ N) :
    Ext.mk₀ f = 0 ↔ f = 0 :=
  Ext.addEquiv₀.symm.map_eq_zero_iff (x := f)
```
the proof becomes
```lean
lemma postcomp_mk₀_injective_of_mono (L M N : C) (f : M ⟶ N) (mono : Mono f) :
    Function.Injective (((Ext.mk₀ f)).postcomp L (add_zero 0)) := by
  rw [← AddMonoidHom.ker_eq_bot_iff, AddSubgroup.eq_bot_iff_forall]
  intro x hx
  obtain ⟨g, rfl⟩ := Ext.addEquiv₀.symm.surjective x
  simpa [← cancel_mono f] using hx
```

File: Mathlib/Algebra/Homology/DerivedCategory/Ext/ExactSequences.lean [hunk 10]
```diff
@@ -277,6 +290,19 @@ lemma contravariant_sequence_exact₃ {n₁ : ℕ} (x₃ : Ext S.X₃ Y n₁)
...
   exact this x₃ hx₃
 
+lemma precomp_mk₀_injective_of_epi (L M N : C) (g : M ⟶ N) (epi : Epi g) :
+    Function.Injective (((Ext.mk₀ g)).precomp L (zero_add 0)) := by
+  rw [← AddMonoidHom.ker_eq_bot_iff, AddSubgroup.eq_bot_iff_forall]
+  intro x hx
+  simp only [AddMonoidHom.mem_ker, Ext.bilinearComp_apply_apply] at hx
+  rw [← Ext.mk₀_homEquiv₀_apply x, Ext.mk₀_comp_mk₀] at hx
+  have : (g ≫ Ext.addEquiv₀ x) = 0 := Ext.addEquiv₀.symm.map_eq_zero_iff.mp hx
+  exact Ext.addEquiv₀.map_eq_zero_iff.mp (Limits.zero_of_epi_comp g this)
```
Comment (joelriou) [inline Mathlib/Algebra/Homology/DerivedCategory/Ext/ExactSequences.lean]:
```suggestion
  rw [← AddMonoidHom.ker_eq_bot_iff, AddSubgroup.eq_bot_iff_forall]
  intro x hx
  obtain ⟨f, rfl⟩ := Ext.addEquiv₀.symm.surjective x
  simpa [← cancel_epi g] using hx
```
